US06274608B1
5-(4-(1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphtalen-2yl)-ethoxy)-benzyl)-thiazolidine-2,4-dione
5-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-benzylidene)-thiazolidine-2,4-dione (200 mg; 0.44 mmol) was first attempted hydrogenated with Pd/C 5% (235 mg) in dioxane (50 ml) at 100° C. for 10 hours. Filtration and extraction of the mixture showed a mixture of starting material and product (185 mg). The mixture was then dissolved in MeOH (25 ml) and magnesium (100 mg) was added. The reaction mixture was stirred over the week end at room temperature and then evaporated. The residue was dissolved in water and ethyl acetate and the pH was adjusted to 7 with 1 N HCl. The mixture was stirred for 5 minutes after which the organic phase was separated. The organic phase was dried and evaporated, and the residue was purified on column chromatography using methylene chloride: methanol (15:1) as eluent to give the title compound in 76 mg (38%) yield. Compound 1.

reactant | 5-(4-(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-benzylidene)-thiazolidine-2,4-dione | 0.44 mmol, 200 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)OC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C27H31NO3S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 235 mg | [Pd] | Pd
product | 5-(4-(1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphtalen-2yl)-ethoxy)-benzyl)-thiazolidine-2,4-dione | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C27H33NO3S
